US08835472B2
Methyl 3-((4-(2-acetamidopropyl)phenyl)ethynyl)benzoate
To 10.0 g (63.4 mmol) methyl 3-ethynylbenzoate (J. Org. Chem. 1981, 46, 2280-6) and 7.00 g (23.1 mmol) N-(1-(4-iodo-phenyl)propan-2-yl)acetamide (I52.1) in 80 mL DMF are added 100 mL TEA, 250 mg (1.31 mmol) CuI and 1.20 g (1.71 mmol) bis(triphenylphosphine)-palladium (II) chloride. After stirring over night r.t. the solvents are removed under reduced pressure. The residue is partitioned between EtOAc and diluted aq. NH4Cl solution. The organic layer is separated and the aq. layer is extracted with EtOAc (2×). The org. layers are combined, washed with brine, dried with Na2SO4 and the solvent is removed in vacuo. The residue is purified by column chromatography (silica gel, EtOAc 100%).

reactant | methyl 3-ethynylbenzoate | 63.4 mmol, 10.0 g | C(#C)C=1C=C(C(=O)OC)C=CC1 | C10H8O2
reactant | N-(1-(4-iodo-phenyl)propan-2-yl)acetamide | 23.1 mmol, 7.00 g | IC1=CC=C(C=C1)CC(C)NC(C)=O | C11H14INO
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 1.31 mmol, 250 mg | [Cu]I
catalyst | bis(triphenylphosphine)-palladium (II) chloride | 1.71 mmol, 1.20 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | Methyl 3-((4-(2-acetamidopropyl)phenyl)ethynyl)benzoate | C(C)(=O)NC(CC1=CC=C(C=C1)C#CC=1C=C(C(=O)OC)C=CC1)C | C21H21NO3
